US07432263B2
6-nitro-3-bromo-3H-isobenzofuran-1-one (II)
To 125 ml of a dichloromethane solution of 6-nitrophtalide (8.0 g, 0.047 mol), bromine (8.25 g, 0.052 mol, 1.15 eq) and hydrogen peroxide (5.07 g of a 35% solution in water, equivalent to 1.77 of hydrogen peroxide, 0.052 mol, 1.15 eq) were added. The mixture was gently refluxed for 11 hours, then cooled down and concentrated by solvent evaporation. The aqueous layer was separated, and the organic phase washed with water before drying up (Na2SO4).

reactant | dichloromethane | 125 ml | ClCCl | CH2Cl2
reactant | 6-nitrophtalide | 0.047 mol, 8.0 g | [N+](=O)([O-])C1=CC=C2COC(=O)C2=C1 | C8H5NO4
reactant | bromine | 0.052 mol, 8.25 g, 1.15 eq | BrBr | Br2
reactant | hydrogen peroxide | OO | H2O2
solvent | water | O | H2O
product | 6-nitro-3-bromo-3H-isobenzofuran-1-one | [N+](=O)([O-])C1=CC=C2C(OC(C2=C1)=O)Br | C8H4BrNO4
